US05750531
Synthesis of 6-methyl-2-(N-methylphenylamino)-4-(7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yl)pyrimidine hydrochloride
After N-methylaniline(0.45 ml, 4.05 mmol) was added to a mixture solution of 6-methyl-4-(7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yl)-2-chloropyrimidine(0.75 g, 2.7 mmol) and dimethylformamide(10 ml), 0.52 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | N-methylaniline | 4.05 mmol, 0.45 ml | CNC1=CC=CC=C1 | C7H9N
reactant | 6-methyl-4-(7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yl)-2-chloropyrimidine | 2.7 mmol, 0.75 g | CC1=CC(=NC(=N1)Cl)N1C(C2=C(CC1)C=CS2)C | C13H14ClN3S
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 6-methyl-2-(N-methylphenylamino)-4-(7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yl)pyrimidine hydrochloride | 0.52 g, Yield: 49.7% | Cl.CC1=CC(=NC(=N1)N(C)C1=CC=CC=C1)N1C(C2=C(CC1)C=CS2)C | InChI=1S/C20H22N4S.ClH/c1-14-13-18(24-11-9-16-10-12-25-19(16)15(24)2)22-20(21-14)23(3)17-7-5-4-6-8-17;/h4-8,10,12-13,15H,9,11H2,1-3H3;1H
